US08420642B2
2-Bromo-5-(2-methoxy-ethoxy)-pyridine (0.42 mmol), sodium-tert.-butylate (1.4 eq.), tris-(dibenzylidene-aceton)-dipalladium (0.1 eq.), BINAP [=2,2′-bis(diphenylphosphino)-1,1′-binaphthyl] (0.1 eq.) and 1-methyl-1H-pyrazole-3-amine (1.4 eq.) are filled under nitrogen in a microwave reaction vessel. Degassed toluene (45 eq.) is added. The reaction suspension is heated for 100 min to 120° C. and for 30 min to 150° C. Ethyl acetate is added to the reaction suspension and filtrated over celite. The solvent of the filtrate is removed in vacuo. [5-(2-Methoxy-ethoxy)-pyridine-2-yl]-(1-methyl-1H-pyrazole-3-yl)-amine (“A22”) is obtained after reversed phase column chromatography (Water/acetonitrile+0.1% TFA) as yellow oil in a yield of 35%: HPLC (method C): 1.16 min; LC-MS (method A): 0.43 min, 249.15 (M+H+); 1H-NMR (DMSO-d6, 500 MHz): δ [ppm] 10.803 (s, 1H), 7.900 (d, 1H, J=2.8 Hz), 7.802 (dd, 1H, J=2.8 Hz, J=9.4 Hz), 7.739 (d, 1H, J=2.3 Hz), 7.314 (d, 1H, J=9.4 Hz), 6.103 (d, 1H, J=2.3 Hz), 4.149-4.131 (m, 2H), 3.861 (s, 3H), 3.688-3.670 (m, 2H), 3.323 (s, 3H).

reactant | 2-Bromo-5-(2-methoxy-ethoxy)-pyridine | 0.42 mmol | BrC1=NC=C(C=C1)OCCOC | C8H10BrNO2
reactant | BINAP | 0.1 eq. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 1-methyl-1H-pyrazole-3-amine | 1.4 eq. | CN1N=C(C=C1)N | C4H7N3
reactant | toluene | 45 eq. | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [5-(2-Methoxy-ethoxy)-pyridine-2-yl]-(1-methyl-1H-pyrazole-3-yl)-amine | yield of 35% | COCCOC=1C=CC(=NC1)NC1=NN(C=C1)C | C12H16N4O2
